US05824652
trans-Ethyl-2-(2'-azidocyclohexyloxy)-acetate
A solution of trans-2-(2'-azidocyclohexyloxy)-acetic acid (11.16 g, 56 mmoles) and concentrated sulphuric acid (0.8 ml) in anhydrous ethanol (30 ml) was heated for 3 hours at reflux temperature, then the mixture was poured into ice water (150 ml) and extracted with n-hexane (4×60 ml). The combined hexane phases were dried over MgSO4, filtered and the solvent was evaporated. The crude product was distilled in vacuo (boiling point: 129° C./0.67 mbar), yielding 8.6 g (68%) of the title compound in the form of a yellow oil.

reactant | trans-2-(2'-azidocyclohexyloxy)-acetic acid | 56 mmoles, 11.16 g | N(=[N+]=[N-])[C@H]1[C@@H](CCCC1)OCC(=O)O | C8H13N3O3
reactant | sulphuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | trans-Ethyl-2-(2'-azidocyclohexyloxy)-acetate | 8.6 g, 68% | C(C)OC(CO[C@H]1[C@@H](CCCC1)N=[N+]=[N-])=O | C10H17N3O3
